US06867218B2
The colourless solid (E)-ethyl 3-(4′-fluoro-biphenyl-4-yl)-but-2-enoate was prepared from (E)-ethyl 3-(4-iodophenyl)-but-2-enoate (example 91 a) and 4-fluorobenzene boronic acid by a procedure analogous to that described in example 52a.

reactant | (E)-ethyl 3-(4-iodophenyl)-but-2-enoate | IC1=CC=C(C=C1)/C(=C/C(=O)OCC)/C | C12H13IO2
reactant | 4-fluorobenzene boronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | (E)-ethyl 3-(4′-fluoro-biphenyl-4-yl)-but-2-enoate | FC1=CC=C(C=C1)C1=CC=C(C=C1)/C(=C/C(=O)OCC)/C | C18H17FO2
